US08067362B2
Step 3: 4-(9-Carboxynonylsulfanyl)benzoic acid tert-butyl ester
4-(9-Methoxycarbonyl nonylsulfanyl)benzoic acid tert-butyl ester (2.46 g, 6.2 mmol) was dissolved in THF (25 ml). 1 N NaOH (6.2 ml, 6.2 mmol) was added and the mixture was stirred under N2 for 1 d. 1 N HCl (6.5 ml) diluted with water (100 ml) was added, and then AcOEt (100 ml) was added. The organic phase was dried over MgSO4 and concentrated under vacuum to yield a white solid (2.5 g).

reactant | 4-(9-Methoxycarbonyl nonylsulfanyl)benzoic acid tert-butyl ester | 6.2 mmol, 2.46 g | C(C)(C)(C)OC(C1=CC=C(C=C1)SCCCCCCCCCC(=O)OC)=O | C22H34O4S
reactant | NaOH | 6.2 mmol, 1 N, 6.2 ml | [OH-].[Na+]
reactant | HCl | 1 N, 6.5 ml | Cl | ClH
reactant | AcOEt | 100 ml | CCOC(=O)C | C4H8O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-(9-Carboxynonylsulfanyl)benzoic acid tert-butyl ester | 2.5 g | C(C)(C)(C)OC(C1=CC=C(C=C1)SCCCCCCCCCC(=O)O)=O | C21H32O4S
